* C:\Users\elias\OneDrive\Desktop\Analog AI\Spice Simulations\Summing Amplifier\FullCircuit.asc
R1 input N001 2k tol=1
R2 input N003 5k tol=1
V1 N001 0 0.1
V2 N003 0 0.2
R4 Intermediate input 1k tol=1
V4 +V 0 2.5
V5 0 -V 2.5
XU1 0 input +V -V Intermediate AD8538
XU2 0 N002 +V -V output AD8538
R3 N002 Intermediate 1k tol=1
R5 output N002 10k tol=1
.tran 10ms startup
.lib ADI.lib
.backanno
.end
